data/mechanism_extracts/OrgLett/10.1021_acs.orglett.5c00193.json
{"doi": "10.1021_acs.orglett.5c00193", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Electrochemical intramolecular bromocyclization of alpha-allenols to enantioenriched spirocyclic 2,5-dihydrofuran derivatives using KBr as the bromine source", "mechanism_family": ["radical_anodic", "paired_electrolysis", "cation_initiated"], "electrochemical_role": "Anodic oxidation of Br- to Br radical, which dimerizes to Br2 (and Br3-) as the active electrophilic brominating species; cathode concurrently reduces water to H2 and OH-", "key_intermediates": [{"name": "bromine radical (Br•)", "smiles": "[Br]", "role": "transient"}, {"name": "molecular Br2 generated in situ", "smiles": "BrBr", "role": "reactive"}, {"name": "tribromide Br3-", "smiles": "[Br-].BrBr", "role": "resting_state"}, {"name": "bromonium ion intermediate (int. I) from allenol", "smiles": null, "role": "reactive"}], "electron_flow": "At the anode, Br- is oxidized (two sequential peaks at ~1.0 and 1.4 V vs SCE) to Br•, which dimerizes to Br2 and equilibrates with Br3-; Br2 then electrophilically activates the allene of (R)-1h to a bromonium ion, which is opened by intramolecular anti-attack of the pendant hydroxyl followed by deprotonation to give the dihydrofuran. At the cathode, water is reduced to H2 + OH-.", "rate_determining_step": "Slow electrochemical release of Br2 (controlling Br2 concentration is responsible for the high yield vs direct Br2 addition)", "probe_reagents": [{"name": "cyclic voltammetry of KBr and substrate 1e", "smiles": null, "purpose": "redox_probe", "observation": "Two anodic peaks at ~1.0 and 1.4 V (Br-/Br• and Br3-/Br2); oxidative current increases when KBr + 1e are combined, indicating chemical reaction between electrogenerated Br2 and the allenol"}, {"name": "molecular Br2 (stoichiometric, direct or dropwise)", "smiles": "BrBr", "purpose": "intermediate_trap", "observation": "Gave product 2a in only 28% (direct) and 25% (dropwise) yield, much lower than the electrochemical conditions; KBr/Br2 combination gave 47%, supporting slow in situ Br2 release"}, {"name": "enantiopure (R)-1h and (S)-1h substrates", "smiles": null, "purpose": "other", "observation": "Chirality fully transferred (98% ee retained), consistent with a stereospecific bromonium-ion/anti-cyclization pathway rather than a free radical/racemizing route"}], "evidence_types_used": ["cyclic_voltammetry", "stoichiometric_intermediate", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Chirality transfer with high ee retention argues for an ionic bromonium-ion mechanism (cation-initiated electrophilic cyclization) rather than a free Br-radical addition pathway; the role of electrochemistry is to slowly generate Br2/Br3- in situ rather than to perform direct SET on the substrate."}
